US08981147B2
bis(4-diethylaminophenyl)phosphine-borane complex
Under a nitrogen stream, to a solution of bis(4-diethylaminophenyl)phosphine oxide (3.76 g, 10 mmoL) synthesized in Example 10 in tetrahydrofuran (35 mL) was added borane-tetrahydrofuran solution (35 mL, 3.3 equivalents) at 25° C. to 30° C. over 2 hr. Then, silica gel (6.3 g, 9.7 equivalents) was added to the mixture, and the mixture was stirred at room temperature for 3 hr. Then, silica gel was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was recrystallized from n-hexane/ethyl acetate (1/1) to give the title compound (1.8 g, white crystals). yield 49%. melting point 108.5° C.

reactant | bis(4-diethylaminophenyl)phosphine oxide | 3.76 g | C(C)N(C1=CC=C(C=C1)P(C1=CC=C(C=C1)N(CC)CC)=O)CC | C20H29N2OP
reactant | borane tetrahydrofuran | 35 mL, 3.3 equivalents | B.O1CCCC1
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | bis(4-diethylaminophenyl)phosphine borane | 1.8 g, yield 49% | C(C)N(C1=CC=C(C=C1)PC1=CC=C(C=C1)N(CC)CC)CC.B | InChI=1S/C20H29N2P.BH3/c1-5-21(6-2)17-9-13-19(14-10-17)23-20-15-11-18(12-16-20)22(7-3)8-4;/h9-16,23H,5-8H2,1-4H3;1H3
